US09145392B2
Step 5: Benzyl 4-(1-((1,3-dioxolan-2-yl)methyl)-4-(4-fluoro-3-(trifluoromethyl)phenyl)-1H-imidazol-2-yl)piperidine-1-carboxylate
The solution of 4-[4-(4-fluoro-3-trifluoromethyl-phenyl)-1H-imidazol-2-yl]-piperidine-1-carboxylic acid benzyl ester (1100.00 mg; 2.46 mmol; 1.00 eq.) in 2.0 ml of THF was cooled to −20° C., NaHMDS (541.00 mg; 2.95 mmol; 1.20 eq.) was added dropwise and the resulting mixture was stirred at RT for 30 mins. 2-Bromomethyl-[1,3]dioxolane (0.76 ml; 7.38 mmol; 3.00 eq.) was added and stirred at RT for 5 min. DMSO (10 ml) was added and the mixture was placed in microwave at 100° C. for 2 hr. The reaction mixture was cooled and diluted with water and extracted with EA. The organic layer was washed with brine, separated, dried and concentrated. The residue was subjected to snap column (100 g), eluted with 20%-80% EA in hexane to give the title compound (1000 mg, yield 76.2%).

reactant | 4-[4-(4-fluoro-3-trifluoromethyl-phenyl)-1H-imidazol-2-yl]-piperidine-1-carboxylic acid benzyl ester | 2.46 mmol, 1100.00 mg, 1.00 eq. | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)C=1NC=C(N1)C1=CC(=C(C=C1)F)C(F)(F)F | C23H21F4N3O2
reactant | NaHMDS | 2.95 mmol, 541.00 mg, 1.20 eq. | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | 2-Bromomethyl-[1,3]dioxolane | 7.38 mmol, 0.76 ml, 3.00 eq. | BrCC1OCCO1 | C4H7BrO2
reactant | DMSO | 10 ml | CS(=O)C | C2H6OS
solvent | THF | 2.0 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | Benzyl 4-(1-((1,3-dioxolan-2-yl)methyl)-4-(4-fluoro-3-(trifluoromethyl)phenyl)-1H-imidazol-2-yl)piperidine-1-carboxylate | 1000 mg, yield 76.2% | O1C(OCC1)CN1C(=NC(=C1)C1=CC(=C(C=C1)F)C(F)(F)F)C1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C27H27F4N3O4
